US06316494B1
(+,−) cis 7-Benzyloxy-4-[4-(morpholinodecyloxy)-phenyl]-3-phenylchroman
From (+,−) cis 7-Benzyloxy-4-[4-(bromodecyloxy)-phenyl]-3-phenylchroman (300 mg, 0.48 mmol) and morpholine (208 mg, 2.4 mmol).

reactant | (+,−) cis 7-Benzyloxy-4-[4-(bromodecyloxy)-phenyl]-3-phenylchroman | 0.48 mmol, 300 mg | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCCCCCBr | C38H43BrO3
reactant | morpholine | 2.4 mmol, 208 mg | N1CCOCC1 | C4H9NO
product | (+,−) cis 7-Benzyloxy-4-[4-(morpholinodecyloxy)-phenyl]-3-phenylchroman | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCCCCCN1CCOCC1 | C42H51NO4
